US07223766B2
4-Chloro-2-(5-chloro-2-fluoro-phenyl)-pyrrolo[2,1-f][1,2,4]triazine
2-(5-Chloro-2-fluoro-phenyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one (60 mg, 0.228 mmole) was added to phosphorous oxychloride (1 ml). Added 57 microliters N,N-dimethylaniline (catalyst) and heated to 110° C. overnight. Removed excess phosphorous oxychloride under vacuum, residue treated with ice, and product extracted with chloroform. Dried chloroform extract over sodium sulfate (anh.) and removed solvent to give crude product. Product was purified by silica gel chromatography eluted with chloroform to give 36 mg product (yield: 56%).

reactant | 2-(5-Chloro-2-fluoro-phenyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 0.228 mmole, 60 mg | ClC=1C=CC(=C(C1)C1=NN2C(C(N1)=O)=CC=C2)F | C12H7ClFN3O
reactant | phosphorous oxychloride | 1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 57 microliters | CN(C1=CC=CC=C1)C | C8H11N
product | 4-Chloro-2-(5-chloro-2-fluoro-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 36 mg, yield: 56% | ClC1=NC(=NN2C1=CC=C2)C2=C(C=CC(=C2)Cl)F | C12H6Cl2FN3
